US07476399B2
2,3,5,6-tetrafluoro-4-methyl-N-(2-methylcyclohexyl)benzamide
2,3,5,6-tetrafluoro-p-toluic acid acid (4.00 g, 19.22 mmol), HOBt (5.19 g, 38.44 mmol) and EDCI (4.42 g 23.06 mmol) were mixed in 200 ml of anhydrous DCM and 30 ml of anhydrous DMF. The mixture was cooled to 0° C. and allowed to stir under Ar for 15 minutes. To the mixture was added 2-methylcyclohexanamine (3.05 mL, 23.06 mmol) and the reaction mixture was allowed to slowly warm to ambient temperature and stirred overnight. The reaction mixture was diluted with DCM, washed with 1N HCl, water, aqueous NaHCO3, water and brine, drying over MgSO4, filtration and removal of solvent in vacuo, afforded the crude product as a pale yellow solid Recrystallization (EtOH/H2O) and drying in vacuo gave 5.23 g of the title compound as a white solid (mixture of 2 diasteromers, 90%). 1H NMR (CDCl3) δ 0.95, 1.01 (d, J=7.0, 6.6 Hz, 3H) 1.1-2.1 (m, 9H), 2.29 (m, 3H), 3.70, 4.29 (m, 1H), 5.65, 5.92 (m, 1H). MS (304.1, M+H). m.p. 202-204° C.

reactant | 2,3,5,6-tetrafluoro-p-toluic acid | 19.22 mmol, 4.00 g | FC1=C(C(=C(C(=C1F)C(=O)O)F)F)C | C8H4F4O2
reactant | HOBt | 38.44 mmol, 5.19 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 23.06 mmol, 4.42 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | 2-methylcyclohexanamine | 23.06 mmol, 3.05 mL | CC1C(CCCC1)N | C7H15N
solvent | DCM | 200 ml | C(Cl)Cl | CH2Cl2
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 2,3,5,6-tetrafluoro-4-methyl-N-(2-methylcyclohexyl)benzamide | 5.23 g, 90% | FC1=C(C(=O)NC2C(CCCC2)C)C(=C(C(=C1F)C)F)F | C15H17F4NO
